US09079866B2
5-{2′-[(4-Aminopiperidin-1-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 1-((2-bromophenyl)sulfonyl)piperidin-4-amine. MS (ESI): mass calcd. for C21H22FN5O2S, 427.15; m/z found, 428.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.36 (s, 1H), 8.25-8.23 (d, J=1.4, 1H), 8.11-8.08 (m, 1H), 7.96 (m, 1H), 7.74-7.69 (m, 1H), 7.65-7.60 (m, 1H), 7.45-7.41 (m, 1H), 7.32-7.29 (m, 1H), 7.28 (s, 1H), 3.47-3.40 (m, 2H), 3.18-3.08 (m, 1H), 2.57-2.43 (m, 2H), 1.91-1.84 (m, 2H), 1.51-1.39 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-((2-bromophenyl)sulfonyl)piperidin-4-amine | BrC1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)N | C11H15BrN2O2S
product | 5-{2′-[(4-Aminopiperidin-1-yl)sulfonyl]-3-fluorobiphenyl-4-yl}pyrazin-2-amine | NC1CCN(CC1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C21H22FN5O2S
